US07291631B2
To a solution of (3-amino-pyridin-2-yl)-methanol (0.310 g, 2.54 mmol) and Et3N (0.570 g, 5.33 mmol) in dry CH2Cl2 (20 mL) was added benzoyl chloride (0.700 g, 5.08 mmol) dropwise. After the mixture was stirred for 18 h CH2Cl2 was removed, and then MeOH (5 mL) and saturated aqueous K2CO3 (25 mL) were added. The mixture was stirred for 2 h, and then extracted with CH2Cl2 (5×50 mL). The combined extracts were dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (2:1 CH2Cl2/Et2O), affording N-(2-hydroxymethyl-pyridin-3-yl)-benzamide as a white solid. The white solid was dissolved in CH2Cl2 (15 mL), and activated MnO2 (0.660 g, 7.68 mmol) was added. The suspension was stirred for 64 h, and then filtered through a celite cake. The filtrate was concentrated by evaporation under vacuum, and a brown residue was purified by flash chromatography on a silica gel column (4:1 CH2Cl2/Et2O), affording N-(2-formyl-pyridin-3-yl)-benzamide as a pale yellow solid (0.139 g, 24% two steps). 1H NMR (CDCl3) δ 7.54-7.62 (m, 4H), 8.07 (d, 2H, J=7.2 Hz), 8.54 (d, 1H, J=4.2 Hz), 9.32 (d, 1H, J=8.7 Hz), 10.19 (s, 1H).

reactant | (3-amino-pyridin-2-yl)-methanol | 2.54 mmol, 0.310 g | NC=1C(=NC=CC1)CO | C6H8N2O
reactant | Et3N | 5.33 mmol, 0.570 g | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 5.08 mmol, 0.700 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxymethyl-pyridin-3-yl)-benzamide | OCC1=NC=CC=C1NC(C1=CC=CC=C1)=O | C13H12N2O2
